US07625932B2
Preparation of 3-biphenyl-4-yl-4-cyano-1-methyl-5-ethyl-1H-pyrrole-2-carboxylic acid ethyl ester (see also Example E-71)
Charge deionized water (0.50 L), potassium carbonate (66.3 grams, 0.48 mol), and 4-biphenyl boronic acid (62.4 grams, 0.315 mol) and ethanol (1.4 L) to a 3 L 3-neck reaction flask equipped with a mechanical stirrer, condenser, heating mantle, thermocouple, and nitrogen inlet. Stir the mixture to dissolve the solids. Add 4-cyano-5-ethyl-3-iodo-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (Preparation 38), additional ethanol (0.90 L) and stir the mixture while the flask is inerted with nitrogen. Add palladium black to the reaction mixture and heat the mixture to reflux at 80° C. Stir the reaction mixture at reflux for 70 minutes. Add ethyl acetate (0.50 L) and filter the mixture through Whatman® GF/F to remove palladium black. Concentrate the filtrate to about 0.6 L by distillation and filter the resulting suspension to collect the precipitate. Rinse the filter cake with ethanol (0.441 L) and vacuum-dry to afford 95.6 grams of the title compound in 88.7% yield.

reactant | water | 0.50 L | O | H2O
reactant | potassium carbonate | 0.48 mol, 66.3 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 4-biphenyl boronic acid | 0.315 mol, 62.4 grams | C1(=CC=C(C=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
reactant | 4-cyano-5-ethyl-3-iodo-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C(C1I)C#N)CC)C | C11H13IN2O2
catalyst | palladium black | [Pd] | Pd
solvent | ethanol | 0.90 L | C(C)O | C2H6O
solvent | ethanol | 1.4 L | C(C)O | C2H6O
product | 3-biphenyl-4-yl-4-cyano-1-methyl-5-ethyl-1H-pyrrole-2-carboxylic acid ethyl ester | 95.6 grams, 88.7% yield | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)C1=CC=CC=C1)C#N)CC)C | C23H22N2O2
